US07687502B2
[6-(5-Chloro-3-fluoropyridin-2-yloxy)quinazolin-4-yl]-(1-methyl-1H-pyrazol-3-yl)-amine
The compound of Example 154 was manufactured by the same method as in Example 95, by a similar method thereto or by a combination of such a method with a conventional method using 2,5-dichloro-3-fluoropyridine, 3-amino-1-methyl-1H-pyrazole and 4-chloro-6-hydroxy-quinazoline.

reactant | 2,5-dichloro-3-fluoropyridine | ClC1=NC=C(C=C1F)Cl | C5H2Cl2FN
reactant | 3-amino-1-methyl-1H-pyrazole | NC1=NN(C=C1)C | C4H7N3
reactant | 4-chloro-6-hydroxy-quinazoline | ClC1=NC=NC2=CC=C(C=C12)O | C8H5ClN2O
product | [6-(5-Chloro-3-fluoropyridin-2-yloxy)quinazolin-4-yl]-(1-methyl-1H-pyrazol-3-yl)-amine | ClC=1C=C(C(=NC1)OC=1C=C2C(=NC=NC2=CC1)NC1=NN(C=C1)C)F | C17H12ClFN6O
